US04962115
A mixture of 11 parts of 1-(4-fluorobenzoyl)aziridine, 6.28 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 45 parts of benzene and 20 parts of methanol was stirred and refluxed for 6 hours. The reaction mixture was evaporated and the residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 5.09 parts of cis-4-amino-5-chloro -N-[1-[2-[(4-fluorobenzoyl)amino]ethyl]-3-methoxy-4-piperidinyl]-2-me-thoxybenzamide; mp. 208.7° C. (compound 131).

reactant | 1-(4-fluorobenzoyl)aziridine | FC1=CC=C(C(=O)N2CC2)C=C1 | C9H8FNO
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | cis-4-amino-5-chloro -N-[1-[2-[(4-fluorobenzoyl)amino]ethyl]-3-methoxy-4-piperidinyl]-2-me-thoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC(C2=CC=C(C=C2)F)=O)OC)C=C1Cl)OC | C23H28ClFN4O4
